US08957205B2
2-[2-(2-Furanyl)ethyl]-3-oxa-1-azaspiro[4.5]dec-1-en-4-one
1.7 ml of 2N—NaOH aqueous solution was added to a solution of 478 mg (1.7 mmol) of 1-[[1-oxo-3-(2-furanyl)propyl]amino]cyclohexanecarboxylic acid methyl ester obtained in Reference example 64 in 2 ml of tetrahydrofuran, and the mixture was refluxed under heating for 3 hours. Ether was added to the reaction solution to wash it. After the separated aqueous layer was neutralized by concentrated hydrochloric acid, the layer was extracted with ethyl acetate. After the obtained organic layer was washed with saturated brine, the layer was dried with anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. Then, 10 ml of methylene chloride and 377 mg (1.82 mmol) of acid 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride were added to the residue, and the mixture was stirred at room temperature overnight. The solvent was distilled off under reduced pressure, ethyl acetate was added thereto, and the mixture was washed with water, a 10% aqueous potassium hydrogensulfate solution, a saturated aqueous sodium hydrogencarbonate solution, and then saturated brine, followed by drying with anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain 198 mg (47%) of the title compound.

reactant | NaOH | [OH-].[Na+]
reactant | 1-[[1-oxo-3-(2-furanyl)propyl]amino]cyclohexanecarboxylic acid methyl ester | 1.7 mmol, 478 mg | COC(=O)C1(CCCCC1)NC(CCC=1OC=CC1)=O | C15H21NO4
reactant | Ether | CCOCC | C4H10O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.82 mmol, 377 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-[2-(2-Furanyl)ethyl]-3-oxa-1-azaspiro[4.5]dec-1-en-4-one | 198 mg, 47% | O1C(=CC=C1)CCC1=NC2(C(O1)=O)CCCCC2 | C14H17NO3
